.subckt 4_bit_Comparator En A3 A2 A1 A0 B3 B2 B1 B0 Eq Gt Lt vdd gnd
    .include NOT.sub
    .include AND.sub
    .include AND_3.sub
    .include AND_4.sub
    .include AND_5.sub
    .include OR.sub
    .include OR_3.sub
    .include OR_4.sub
    .include OR_5.sub
    .include XOR.sub
    .include XNOR.sub

    X1 A0 A0c vdd gnd NOT
    X2 A1 A1c vdd gnd NOT
    X3 A2 A2c vdd gnd NOT
    X4 A3 A3c vdd gnd NOT

    X5 B0 B0c vdd gnd NOT
    X6 B1 B1c vdd gnd NOT
    X7 B2 B2c vdd gnd NOT
    X8 B3 B3c vdd gnd NOT

    X9 A0 B0 w1 vdd gnd XNOR
    X10 A1 B1 w2 vdd gnd XNOR
    X11 A2 B2 w3 vdd gnd XNOR
    X12 A3 B3 w4 vdd gnd XNOR
    X13 w1 w2 w3 w4 En Eq vdd gnd AND_5

    X14 A3 B3c w5 vdd gnd AND
    X15 w4 A2 B2c w6 vdd gnd AND_3
    X16 w3 w4 A1 B1c w7 vdd gnd AND_4
    X17 w2 w3 w4 A0 B0c w8 vdd gnd AND_5
    X18 w5 w6 w7 w8 w9 vdd gnd OR_4
    X19 w9 En Gt vdd gnd AND

    X20 A3c B3 w10 vdd gnd AND
    X21 w4 A2c B2 w11 vdd gnd AND_3
    X22 w3 w4 A1c B1 w12 vdd gnd AND_4
    X23 w2 w3 w4 A0c B0 w13 vdd gnd AND_5
    X24 w10 w11 w12 w13 w14 vdd gnd OR_4
    X25 w14 En Lt vdd gnd AND
.ends 4_bit_Comparator